US07906546B2
To 322 mg (1.10 mmol) of 2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionitrile in 10 mL of glacial acetic acid, 193 mg (1.21 mmol, 1.1 eq) of (4-methyl-phenyl)-hydrazine hydrochloride were added and stirring was continued at RT over night. An aqueous solution of NaHCO3 was added until pH=7, and the product was extracted with EtOAc, the organic phase was dried over Na2SO4, filtered and evaporated. The resulting two diastereomers were separated by column chromatography on silica gel with AcOEt/heptane 1:4, and triturated with Et2O. 158 mg (38%) of (RR,SS)-2-benzenesulfonyl-2-(6-methyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propionitrile and 123 mg (29%) of (RS,SR)-2-benzenesulfonyl-2-(6-methyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propionitrile were isolated as light yellow solids, MS: 379 (MH+).

reactant | 2-benzenesulfonyl-2-(3-oxo-cyclohexyl)-propionitrile | 1.10 mmol, 322 mg | C1(=CC=CC=C1)S(=O)(=O)C(C#N)(C)C1CC(CCC1)=O | C15H17NO3S
reactant | (4-methyl-phenyl)-hydrazine hydrochloride | 1.21 mmol, 193 mg, 1.1 eq | Cl.CC1=CC=C(C=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (RS,SR)-2-benzenesulfonyl-2-(6-methyl-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-propionitrile | 123 mg, 29% | C1(=CC=CC=C1)S(=O)(=O)C(C#N)(C)C1CC=2NC3=CC=C(C=C3C2CC1)C | C22H22N2O2S
